// Generated for: spectre
// Generated on: May  6 14:19:50 2023
// Design library name: devices
// Design cell name: nor2_pulse_tb
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vSupply=1.1
include "/eda/designKits/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: devices
// Cell name: nor2
// View name: schematic
subckt nor2 A B out
    PM4 (out B net12 vdd!) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
    PM3 (net12 A vdd! vdd!) g45p1svt w=(240n) l=45n nf=1 as=33.6f ad=33.6f \
        ps=760n pd=760n nrd=583.333m nrs=583.333m sa=140n sb=140n sd=160n \
        sca=151.92744 scb=0.10471 scc=0.01874 m=(1)
    NM0 (out B 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f ps=520n \
        pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    NM1 (out A 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f ps=520n \
        pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
ends nor2
// End of subcircuit definition.

// Library name: devices
// Cell name: nor2_pulse_tb
// View name: schematic
C0 (_net0 0) capacitor c=1f
V0 (vdd! 0) vsource dc=vSupply type=dc
V4 (inB 0) vsource type=pulse val0=0 val1=vSupply period=200n delay=108n \
        rise=2n fall=2n width=98n
V1 (inA 0) vsource type=pulse val0=0 val1=vSupply period=100n delay=48n \
        rise=2n fall=2n width=48n
I7 (inA inB _net0) nor2
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=600n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" method=gear2only annotate=status save=allpub \
    maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save inA inB _net0 
saveOptions options save=all pwr=all
